US04886835
The procedure is as in Example 2 for the preparation of diethyl 2-dimethylamino-5-phenylthio-2,4-hexadienedioate, starting with N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate (10 g), a 2M ethanolic solution of sodium ethylate (21 cc) and ethyl (4-isopropylbenzylthio)acetate (8.8 g) in ethanol (100 cc). After purification by chromatography on a silica column with a mixture of cyclohexane and ethyl acetate (80:20 by volume) as eluent, diethyl 2-dimethylamino-5-(4-isopropylbenzylthio)-2,4-hexadienedioate (8.8 g) is obtained in the form of an orange-coloured oil, and is used in the crude state in the subsequent syntheses.

reactant | diethyl 2-dimethylamino-5-phenylthio-2,4-hexadienedioate | CN(C(C(=S)OCC)=CC=C(C(=O)OCC)C1=CC=CC=C1)C | C18H23NO3S
reactant | N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate | 10 g | F[B-](F)(F)F.CN(C(=CC=[N+](C)C)C(=O)OCC)C
reactant | sodium ethylate | 21 cc | CC[O-].[Na+]
reactant | ethyl (4-isopropylbenzylthio)acetate | 8.8 g | C(C)(C)C1=CC=C(CSCC(=O)OCC)C=C1 | C14H20O2S
solvent | ethanol | 100 cc | C(C)O | C2H6O
product | diethyl 2-dimethylamino-5-(4-isopropylbenzylthio)-2,4-hexadienedioate | 8.8 g | CN(C(C(=O)OCC)=CC=C(C(=O)OCC)SCC1=CC=C(C=C1)C(C)C)C | C22H31NO4S
